US08748412B2
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-{3-[5-(4-fluorophenyl)-2H-pyrazol-3-yl]-ureido}-propionic acid 193
3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-{3-[5-(4-fluoro-phenyl)-2H-pyrazol-3-yl]-ureido}-propionic acid ethyl ester. To a solution of bis(trichloromethyl)carbonate (189 mg, 0.66 mmol) in dichloromethane (12 mL) and saturated aqueous NaHCO3 (0.8 mL) was slowly added a solution of tert-butyl 4-(3-(4-(2-(ethoxycarbonyl)-2-aminoethyl)-2-fluorophenyl)-1,2,4-oxadiazol-5-yl)phenylcarbamate (300 mg, 0.66 mmol) in dichloromethane (12 mL) at 0° C. The reaction mixture was then stirred at room temperature for 1 hr. TLC showed the reaction was completed. Saturated aqueous NaHCO3 (18 mL), pyridine (0.3 mL), and 3-(4-fluorophenyl)-1H-pyrazol-5-amine (177 mg, 1 mmol) were added to the reaction mixture. The resulting mixture was then stirred overnight. TLC showed the reaction was completed. The layers were separated and the aqueous portion was extracted with dichloromethane (2×50 mL). The combined organic layers were washed sequentially with aq. HCl solution (1N, 2×50 mL) and brine (50 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to give the title compound (343 mg, 51% yield) as a yellow solid.

reactant | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluoro-phenyl}-2-{3-[5-(4-fluoro-phenyl)-2H-pyrazol-3-yl]-ureido}-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(=O)OC(C)(C)C)F)NC(=O)NC=1NN=C(C1)C1=CC=C(C=C1)F)=O | C34H33F2N7O6
reactant | bis(trichloromethyl)carbonate | 0.66 mmol, 189 mg | ClC(Cl)(Cl)OC(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | tert-butyl 4-(3-(4-(2-(ethoxycarbonyl)-2-aminoethyl)-2-fluorophenyl)-1,2,4-oxadiazol-5-yl)phenylcarbamate | 0.66 mmol, 300 mg | C(C)OC(=O)C(CC1=CC(=C(C=C1)C1=NOC(=N1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O)F)N | C24H27FN4O5
reactant | 3-(4-fluorophenyl)-1H-pyrazol-5-amine | 1 mmol, 177 mg | FC1=CC=C(C=C1)C1=NNC(=C1)N | C9H8FN3
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 0.8 mL | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 12 mL | ClCCl | CH2Cl2
solvent | NaHCO3 | 18 mL | C(=O)(O)[O-].[Na+]
solvent | pyridine | 0.3 mL | N1=CC=CC=C1 | C5H5N
product | 3-{4-[5-(4-tert-Butoxycarbonylamino-phenyl)-[1,2,4]oxadiazol-3-yl]-3-fluorophenyl}-2-{3-[5-(4-fluorophenyl)-2H-pyrazol-3-yl]-ureido}-propionic acid | 343 mg, 51% yield | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C1=NC(=NO1)C1=C(C=C(C=C1)CC(C(=O)O)NC(=O)NC=1NN=C(C1)C1=CC=C(C=C1)F)F | C32H29F2N7O6
